* Practical inverting op-amp differentiator
.include ../../lib/claw_opamps.lib
VIN in 0 PULSE(-0.05 0.05 0 500u 500u 2m 5m)
VCC vcc 0 5
VEE vee 0 -5
CIN in ncin 100n
RIN ncin sum 1k
RF sum out 100k
CF sum out 1n
XU1 0 sum vcc vee out CLAW_IDEAL_OPAMP
RL out 0 10k
.tran 0 15m 0 5u
.meas TRAN vout_max MAX V(out) FROM=5m TO=15m
.meas TRAN vout_min MIN V(out) FROM=5m TO=15m
.meas TRAN vout_rms RMS V(out) FROM=5m TO=15m
.end
